### PR TITLE
[Merged by Bors] - chore: add `Con.hom_ext` as alternative of `Con.lift_funext`

### PR DESCRIPTION
**Pull request by kckennylau**
---

Zulip: [#mathlib4 > AddCon.hom_ext](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/AddCon.2Ehom_ext/with/527492513)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Congruence/Hom.lean [hunk 1]
```diff
@@ -236,22 +236,26 @@ theorem lift_apply_mk' (f : c.Quotient →* P) :
     (c.lift (f.comp c.mk') fun x y h => show f ↑x = f ↑y by rw [c.eq.2 h]) = f := by
   ext x; rcases x with ⟨⟩; rfl
 
+/-- Extensionality for maps `f, g : M⧸~ →* N`: they are equal if their composition with
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Congruence/Hom.lean]: Is this `~` convention used elsewhere in the file? I think better to match the spelling used in the `lift_funext` docstring for now.

If you want to change the docstrings, let's do that in a second PR (and find someone else to review it)

File: Mathlib/GroupTheory/Congruence/Hom.lean [hunk 2]
```diff
@@ -236,22 +236,26 @@ theorem lift_apply_mk' (f : c.Quotient →* P) :
...
+`mk' : M → M⧸~` are equal. -/
+@[to_additive (attr := ext) "Extensionality for maps `f, g : M⧸~ →+ N`: they are equal if their
+composition with `mk' : M → M⧸~` are equal."]
+lemma hom_ext {f g : c.Quotient →* P} (h : f.comp (mk' c) = g.comp (mk' c)) : f = g := by
+  rw [← lift_apply_mk' f, ← lift_apply_mk' g]
+  congr 1
```
Comment (kckennylau) [inline Mathlib/GroupTheory/Congruence/Hom.lean]:
```suggestion
/-- Homomorphisms on the quotient of a monoid by a congruence relation `c` are equal if their
    compositions with `c.mk'` are equal. -/
@[to_additive "Homomorphisms on the quotient of an `AddMonoid` by an additive congruence relation
`c` are equal if their compositions with `c.mk'` are equal."]
lemma hom_ext {f g : c.Quotient →* P} (h : f.comp c.mk' = g.comp c.mk') : f = g := by
  rw [← lift_apply_mk' f, ← lift_apply_mk' g]
  congr 1
```

File: Mathlib/GroupTheory/Congruence/Hom.lean (hunk 1 above)
Comment (kckennylau) [reply Mathlib/GroupTheory/Congruence/Hom.lean]: done

File: Mathlib/GroupTheory/Congruence/Hom.lean [hunk 3]
```diff
@@ -236,22 +236,26 @@ theorem lift_apply_mk' (f : c.Quotient →* P) :
     (c.lift (f.comp c.mk') fun x y h => show f ↑x = f ↑y by rw [c.eq.2 h]) = f := by
   ext x; rcases x with ⟨⟩; rfl
 
+/-- Homomorphisms on the quotient of a monoid by a congruence relation `c` are equal if their
+    compositions with `c.mk'` are equal. -/
+@[to_additive "Homomorphisms on the quotient of an `AddMonoid` by an additive congruence relation
+`c` are equal if their compositions with `c.mk'` are equal."]
+lemma hom_ext {f g : c.Quotient →* P} (h : f.comp c.mk' = g.comp c.mk') : f = g := by
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Congruence/Hom.lean:243]: This should have an ext attribute

Comment (kckennylau) [reply Mathlib/GroupTheory/Congruence/Hom.lean:243]: done

File: Mathlib/GroupTheory/Congruence/Hom.lean [hunk 4]
```diff
@@ -236,22 +236,26 @@ theorem lift_apply_mk' (f : c.Quotient →* P) :
     (c.lift (f.comp c.mk') fun x y h => show f ↑x = f ↑y by rw [c.eq.2 h]) = f := by
   ext x; rcases x with ⟨⟩; rfl
 
+/-- Homomorphisms on the quotient of a monoid by a congruence relation `c` are equal if their
+    compositions with `c.mk'` are equal. -/
```
Comment (b-mehta) [inline Mathlib/GroupTheory/Congruence/Hom.lean]:
```suggestion
compositions with `c.mk'` are equal. -/
```

**Review by b-mehta — COMMENTED** [review]
bors d+
